US05010108
8.06 g (0.04) mole of 2-methoxy-4-amino-5-chlorobenzoic acid and 7.12 g (0.044 mole) of carbonyldiimidazole are suspended in 80 ml of tetrahydrofuran and kept at 30° C. until the end of gas development. The solution of 5 g (0.05 mole) of cyclopropylethylenediamine in 15 ml of tetrahydrofuran is then slowly added, followed by keeping the temperature at 50° C. for 1 hour. After cooling down, the mixture is poured into water, the solid is removed by filtration and crystallized from alcohol, thus obtaining 13 g (91.7%) of 2-methoxy-4-amino-5-chloro-N-(2-(cyclopropylamino)-ethyl)-benzamide, having a melting point of 152°-3° C. Hydrochloride m.p.

reactant | 2-methoxy-4-amino-5-chlorobenzoic acid | COC1=C(C(=O)O)C=C(C(=C1)N)Cl | C8H8ClNO3
reactant | carbonyldiimidazole | 0.044 mole, 7.12 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopropylethylenediamine | 0.05 mole, 5 g | C1(CC1)NCCN | C5H12N2
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-methoxy-4-amino-5-chloro-N-(2-(cyclopropylamino)-ethyl)-benzamide | 13 g, 91.7% | COC1=C(C(=O)NCCNC2CC2)C=C(C(=C1)N)Cl | C13H18ClN3O2
